US07049315B2
4-Chloro-6,7-methylenedioxyquinoline.
6,7-Methylenedioxy-4-quinolone (5.0 g, 26.5 mmol) was boiled in POCl3 (75 mL) for 45 min and then cooled. Excess phospohoryl chloride was removed under reduced pressure and ice water (100 mL) was added to hydrolyze any residual phosphoryl chloride. The mixture was basified (pH 9) with ammonium hydroxide, and the solid precipitate was filtered. This material was extracted into ethyl ether (8×100 mL), and the ether solution was dried (MgSO4) and evaporated to provide 4.55 g as a white solid, in 83%; mp 127.5-128° C. (lit. mp 129° C.); 1H NMR (CDCl3) δ 6.15 (s, 2H), 7.35 (d, 1H, J=4.7), 7.39 (s, 1H), 7.49 (s, 1H), 8.56 (d, 1H, J=4.7); 13C NMR (CDCl3) δ 99.8, 102.2, 106.1, 119.9, 123.7, 129.8, 141.2, 147.7, 149.1, 151.4.

reactant | 6,7-Methylenedioxy-4-quinolone | 26.5 mmol, 5.0 g | C1OC=2C=C3C(CC=NC3=CC2O1)=O | C10H7NO3
reactant | POCl3 | 75 mL | O=P(Cl)(Cl)Cl | Cl3OP
product | 4-Chloro-6,7-methylenedioxyquinoline | ClC1=CC=NC2=CC3=C(C=C12)OCO3 | C10H6ClNO2
